US06403561B1
Preparation of Methyl 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)indoline-2(S)-carboxylate
Triethylamine (3.15 ml) and bis(2-oxo-3-oxazolidinyl)phosphinyl chloride (5.75 g, 22.6 mmol) were added to a solution of methyl indoline-2-carboxylate (2 g, 11.3 mmol) and N-t-butoxycarbonyl-2(S)-aminobutyric acid (2.6 g, 13.6 mmol) in methylene chloride (15 ml), at 0° C. under nitrogen. The reaction was stirred for 2 h at 5° C. and then at room temperature overnight. The mixture was filtered, the filtrate was washed with water (2×40 ml) and the combined aqueous fractions were extracted with methylene chloride. The combined organic fractions were dried and concentrated to give a residue, which was purified by chromatography on a column of silica gel, using a 7/3 petroleum ether/ethyl acetate mixture as eluent. The product was obtained in the form of a white solid.

reactant | Triethylamine | 3.15 ml | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinyl chloride | 22.6 mmol, 5.75 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | methyl indoline-2-carboxylate | 11.3 mmol, 2 g | N1C(CC2=CC=CC=C12)C(=O)OC | C10H11NO2
reactant | N-t-butoxycarbonyl-2(S)-aminobutyric acid | 13.6 mmol, 2.6 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | Methyl 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)indoline-2(S)-carboxylate | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)OC)CC | C19H26N2O5
